US04426530
17.3 g (50.0 mmols) of 3-(4-aminophenyl)-7-(4-ethyl-5-methyl-2H-1,2,3-triazol-2-yl)-coumarin, 10.5 g (75.0 mmols) of 1,2-bis-(dimethylaminomethylene)-hydrazine and 200 mg of 4-methylbenzenesulphonic acid are refluxed in 40 ml of anhydrous dimethylformamide for 10 hours under an N2 atmosphere. A further 3.50 g (25.0 mmols) of 1,2-bis-(dimethylaminomethylene)-hydrazine are then added, and the mixture is refluxed for a further 10 hours. 16.1 g (81%) of pale yellow crystals are precipitated on cooling the mixture. Recrystallisation from dimethylformamide yields 14.3 g (72%) of 3-(4-(1,2,4-triazol-4-yl)-phenyl)-7-(4-ethyl-5-methyl-2H-1,2,3-triazol-2-yl)-coumarin in the form of small pale yellow crystals of melting point 321°-323° C.

reactant | 3-(4-aminophenyl)-7-(4-ethyl-5-methyl-2H-1,2,3-triazol-2-yl)-coumarin | 50.0 mmols, 17.3 g | NC1=CC=C(C=C1)C=1C(OC2=CC(=CC=C2C1)N1N=C(C(=N1)CC)C)=O | C20H18N4O2
reactant | 1,2-bis-(dimethylaminomethylene)-hydrazine | 75.0 mmols, 10.5 g | CN(C)C=NN=CN(C)C | C6H14N4
reactant | 1,2-bis-(dimethylaminomethylene)-hydrazine | 25.0 mmols, 3.50 g | CN(C)C=NN=CN(C)C | C6H14N4
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
catalyst | 4-methylbenzenesulphonic acid | 200 mg | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
product | 3-(4-(1,2,4-triazol-4-yl)-phenyl)-7-(4-ethyl-5-methyl-2H-1,2,3-triazol-2-yl)-coumarin | 14.3 g, 72% | N=1N=CN(C1)C1=CC=C(C=C1)C=1C(OC2=CC(=CC=C2C1)N1N=C(C(=N1)CC)C)=O | C22H18N6O2
